US07482345B2
methyl 3-(2-chloro-6-oxo-6H-pyrido[1,2-b]pyridazin-5-yl)-4-methoxybenzoate
To a solution methyl 3-[1-(6-chloropyridazin-3-yl)-2-oxo-4-(trimethylsilyl)but-3-yn-1-yl]-4methoxybenzoate (5.58 g, 13.4 mmol) in THF (200 mL) was added TBAF (20.0 mL, 20 mmol) at 0° C. After 10 min the reaction was complete by TLC analysis and diluted with H2O/EtOAc (1/1). The organic layer was washed with H2O, brine, dried over MgSO4 and concentrated to yield an oil. The crude material was dissolved in NMP (25 mL) and heated to 90° C. for 0.5 hr. The completed reaction was poured into 500 mL of ice water and the solid precipitate was collected and dried.

reactant | methyl 3-[1-(6-chloropyridazin-3-yl)-2-oxo-4-(trimethylsilyl)but-3-yn-1-yl]-4methoxybenzoate | 13.4 mmol, 5.58 g | ClC1=CC=C(N=N1)C(C(C#C[Si](C)(C)C)=O)C=1C=C(C(=O)OC)C=CC1OC | C20H21ClN2O4Si
reactant | TBAF | 20 mmol, 20.0 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | H2O EtOAc | O.CCOC(=O)C
solvent | NMP | 25 mL | CN1CCCC1=O | C5H9NO
product | methyl 3-(2-chloro-6-oxo-6H-pyrido[1,2-b]pyridazin-5-yl)-4-methoxybenzoate | ClC=1C=CC=2N(N1)C=CC(C2C=2C=C(C(=O)OC)C=CC2OC)=O | C17H13ClN2O4
